US05523421
By following the procedure of Example 1 by employing 1.39 g(10.1 mmole) of 3-hydroxybenzoic acid, 0.4 g (10.1 mmole) of sodium hydroxide and 1.46 g(9.1 mmole) of chlorokojic acid, there was obtained 1.31 g(55.1%) of 2-(3-hydroxybenzoyl) oxymethyl-5-hydroxy-4H-pyran-4-one as a solid.

reactant | 3-hydroxybenzoic acid | 10.1 mmole, 1.39 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | sodium hydroxide | 10.1 mmole, 0.4 g | [OH-].[Na+]
reactant | chlorokojic acid | 9.1 mmole, 1.46 g | C1=C(OC=C(C1=O)O)CCl | C6H5ClO3
product | 2-(3-hydroxybenzoyl) oxymethyl-5-hydroxy-4H-pyran-4-one | 1.31 g, 55.1% | OC=1C=C(C(=O)OCC=2OC=C(C(C2)=O)O)C=CC1 | C13H10O6
